### PR TITLE
Define rig ideals

### PR DESCRIPTION
**Pull request by siddharthist**
* Ideals in rigs
    - Ideals from kernels
    - Right and left ideals are equivalent for commutative rings
 * Cosets in monoids and groups (eventually, to get to quotients by normal subgroups and then quotients by ideals)
    - Definitions
    - Proof that being in the same coset is an equivalence relation on a group
 * Move results about natural numbers to`NumberSystems.NaturalNumbersAlgebra`

### CODE REVIEW

File: UniMath/Algebra/Domains_and_Fields.v [hunk 1]
```diff
@@ -269,15 +269,7 @@ Local Open Scope ring_scope.
...
-
-Lemma isapropisnonzeroring (X : ring) : isaprop (isnonzeroring X).
-Proof.
-  intros X. use isapropneg.
-Defined.
-Opaque isapropisnonzeroring.
-
-Lemma isnonzerolinvel (X : ring) (is : isnonzeroring X) (x : X) (x' : multlinvpair X x) :
+Lemma isnonzerolinvel (X : ring) (is : isnonzerorig X) (x : X) (x' : multlinvpair X x) :
   neg ((pr1 x') = 0).
```
Comment (DanGrayson) [inline UniMath/Algebra/Domains_and_Fields.v]: How about writing `pr1 x' != 0` here?

Comment (siddharthist) [reply UniMath/Algebra/Domains_and_Fields.v]: Good idea, will do.

**Comment by siddharthist** [comment]
@DanGrayson I've changed that instance and a few others in that file.
